US08198269B2
Synthesis of (4aR,6R,8aS)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine
2-Fluoropyridine-3-boronic acid (44.0 mg), tetrakis(triphenylphosphine)palladium (18.0 mg) and a 1 N sodium carbonate solution (312 μl) were added to a solution of N,N-di-(tert-butyloxycarbonyl)-[(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine (95 mg) in DMF (6.79 ml). After replacement with nitrogen, the mixture was stirred at 85° C. for seven hours. After cooling to room temperature, the mixture was diluted with water. The aqueous layer was extracted with ethyl acetate, and the organic layer was washed with water. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography. The resulting intermediate was dissolved in dichloromethane (4.0 ml). TFA (1.0 ml) was added and the mixture was stirred at room temperature for three hours. Ice was added to the reaction mixture, followed by neutralization with a sodium bicarbonate solution. The aqueous layer was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (23.0 mg).

reactant | 2-Fluoropyridine-3-boronic acid | 44.0 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 1 N, 312 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-di-(tert-butyloxycarbonyl)-[(4aR,6R,8aS)-8a-(5-bromo-2-fluorophenyl)-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 95 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(CO[C@H](C[C@H]2CS1)COCC1=CC=CC=C1)C1=C(C=CC(=C1)Br)F | C31H38BrFN2O6S
solvent | DMF | 6.79 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 18.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4aR,6R,8aS)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-6-benzyloxymethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 23.0 mg | FC1=C(C=C(C=C1)C=1C(=NC=CC1)F)[C@@]12CO[C@H](C[C@H]2CSC(=N1)N)COCC1=CC=CC=C1 | C26H25F2N3O2S
